US08076345B2
C) 5-(1-azidoethyl)-2-methylpyrimidine
To a stirred mixture of 1-(2-methylpyrimidin-5-yl)ethanol (2.48 g, 17 mmol) and diphenylphosphonic azide (9.3 mL, 41 mmol) in toluene (54.5 mL) at 0° C. was added neat 1,8-diazabicyclo[5.4.0]undec-7-ene (6.2 mL, 41 mmol). The reaction mixture was stirred at 0° C. for 30 minutes and then stirred at room temperature overnight. The mixture was diluted with EtOAc (100 mL) and washed with water (100 mL×2). The orangic layer was concentrated in vacuo and purified by silica gel chromatography (0-100% EtOAc/hexane) to afford a colorless oil.

reactant | 1-(2-methylpyrimidin-5-yl)ethanol | 17 mmol, 2.48 g | CC1=NC=C(C=N1)C(C)O | C7H10N2O
reactant | diphenylphosphonic azide | 41 mmol, 9.3 mL | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 41 mmol, 6.2 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 54.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 5-(1-azidoethyl)-2-methylpyrimidine | N(=[N+]=[N-])C(C)C=1C=NC(=NC1)C | C7H9N5
